US06706663B2
Preparation of 3-[3-(1,3-Dioxolan-2-yl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
A mixture of 3-[3-(dibromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.500 g, 10.0 mmol), silver trifluoromethanesulfonate (0.500 g, 19.5 mmol), ethylene glycol (5.00 ml), dichloromethane and dimethoxymethane is stirred three days at room temperature and treated with additional silver trifluoromethanesulfonate (0.300 g, 11.7 mmol). The resultant mixture is stirred one day at room temperature and treated with additional silver trifluoromethanesulfonate (0.400 g, 15.6 mmol) and ethylene glycol (1.00 ml), stirred another day at room temperature and treated again with silver trifluoromethanesulfonate (0.300 g, 11.7 mmol) and ethylene glycol (1.0 ml). After stirring an additional day the mixture is filtered. The filtrate is diluted with dichloromethane, washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue is triturated with hexanes-ethyl acetate to afford the title compound as a white solid (0.070 g, 17.5%, mp 213-216° C.) which is identified by NMR spectral analysis.

reactant | 3-[3-(dibromomethyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 10.0 mmol, 0.500 g | BrC(C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)Br | C14H8Br2F3N3O2S
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | dimethoxymethane | COCOC | C3H8O2
catalyst | silver trifluoromethanesulfonate | 19.5 mmol, 0.500 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
catalyst | silver trifluoromethanesulfonate | 11.7 mmol, 0.300 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
catalyst | silver trifluoromethanesulfonate | 15.6 mmol, 0.400 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
catalyst | silver trifluoromethanesulfonate | 11.7 mmol, 0.300 g | FC(S(=O)(=O)[O-])(F)F.[Ag+]
solvent | ethylene glycol | 1.0 ml | C(CO)O | C2H6O2
solvent | ethylene glycol | 1.00 ml | C(CO)O | C2H6O2
solvent | ethylene glycol | 5.00 ml | C(CO)O | C2H6O2
product | 3-[3-(1,3-Dioxolan-2-yl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.070 g, 17.5% | O1C(OCC1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C16H12F3N3O4S
